US07754744B2
Step 2: (8-Chloro-quinolin-2-yl)-piperidin-4-yl-amine dihydrochloride
A solution of 4-(8-chloro-quinolin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (1.30 g, 3.59 mmol) in 4 M HCl in dioxane (120 mL) was stirred at rt for 1 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. MS (ISP): 262.3 [M+H]−.

reactant | 4-(8-chloro-quinolin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 3.59 mmol, 1.30 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC2=C(C=CC=C2C=C1)Cl | C19H24ClN3O2
solvent | HCl | 4 M | Cl | ClH
solvent | dioxane | 120 mL | O1CCOCC1 | C4H8O2
product | (8-Chloro-quinolin-2-yl)-piperidin-4-yl-amine dihydrochloride | Cl.Cl.ClC=1C=CC=C2C=CC(=NC12)NC1CCNCC1 | InChI=1S/C14H16ClN3.2ClH/c15-12-3-1-2-10-4-5-13(18-14(10)12)17-11-6-8-16-9-7-11;;/h1-5,11,16H,6-9H2,(H,17,18);2*1H
